US07544838B2
4-Hydroxy-benzoic acid (5-methyl-thiophen-2-ylmethylene)-hydrazide (DY166)
To a solution of 4-hydroxy-benzoic acid hydrazide (0.25 g, 0.0016 mol) and 5-methyl-2-thiophenecarboxaldehyde (0.20 g, 0.0016 mol) in abs. EtOH (10 mL), was added 1 drop of acetic acid. The reaction mixture was refluxed for 4 hours. The reaction mixture was cooling to room temperature and concentrated to remove solvent. The resulting residue was solidified by EtOAc to give white solid 0.24 g, in 57% yield, mp: 215.7° C. 1H NMR (CD3OD) δ 8.38 (s, 1H), 7.79 (d, 2H), 7.17 (s, 1H), 6.86 (d, 2H), 6.77 (s, 1H), 2.49 (s, 3H), 1.31. 13C NMR (CDCl3) δ 166.5, 162.8, 145.6, 144.8, 138.1, 132.4, 130.7, 127.1, 124.8, 116.3, 15.6. Anal. Calcd for C13H12N2O2 S: C, 59.98; H, 4.65; N, 10.76. Found: C, 59.98; H, 4.45; N, 10.40.

reactant | 4-hydroxy-benzoic acid hydrazide | 0.0016 mol, 0.25 g | OC1=CC=C(C(=O)NN)C=C1 | C7H8N2O2
reactant | 5-methyl-2-thiophenecarboxaldehyde | 0.0016 mol, 0.20 g | CC1=CC=C(S1)C=O | C6H6OS
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
solvent | EtOH | 10 mL | CCO | C2H6O
product | 4-Hydroxy-benzoic acid (5-methyl-thiophen-2-ylmethylene)-hydrazide | 0.24 g, 57% yield | CC1=CC=C(S1)C=NNC(C1=CC=C(C=C1)O)=O | C13H12N2O2S
